US06544985B2
[2-Amino-4-cyano-5-(methyl-propyl-amino)-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [4-cyano-5-(methyl-propyl-amino)-2-nitro-phenyl]-carbamic acid tert-butyl ester (Example C26) (1.64 g, 4.90 mmol) by reduction with SnCl2.2H2O according to the general procedure J (method b). Obtained as a dark red oil (1.24 g, 83%).

reactant | [4-cyano-5-(methyl-propyl-amino)-2-nitro-phenyl]-carbamic acid tert-butyl ester | 4.90 mmol, 1.64 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(CCC)C)C#N)[N+](=O)[O-])=O | C16H22N4O4
reactant | SnCl2.2H2O | O.O.Cl[Sn]Cl
product | [2-Amino-4-cyano-5-(methyl-propyl-amino)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(CCC)C)C#N)N)=O | C16H24N4O2
